US06969766B2
N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-[(thymin-1-yl)-acetyl]-glycine ethyl ester
To the mixture of N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester (1.72 g, 5 mmol), (thymin-1-yl)-acetic acid (0.92 g, 5 mmol), HOBt (0.81 g, 6 mmol), and DCC (1.24 g, 6 mmol) in DMF (15 mL) was added N,N-diisopropylethylamine (1.31 mL, 7.5 mmol) at ambient temperature. The resulting reaction mixture was stirred for 5 h at the same temperature and the solvent was removed in vacuo to 5 mL. The residue was dissolved in dichloromethane (50 mL) and the precipitate was filtered. The filtrate was washed with 1N HCl aqueous solution, saturated sodium bicarbonate solution, and brine. The organic layer was dried over magnesium sulfate and filtered. The filtrate was concentrated and the residue was triturated with ethyl alcohol. The resulting solid was filtered off and dried in vacuo to give the title compound (1.91 g, 75%) as a white solid. 1H NMR (500 MHz; DMSO-d6) δ 11.29 (s, 0.6H), 11.28(s, 0.4H), 8.99(brs, 0.6H), 8.82(brs, 0.4H), 8.28(m, 1H) 8.18(d, 1H) 7.66(m, 2H) 7.31(s, 0.6H) 7.42(s, 0.4H) 4.66(s, 1.2H) 4.47(s, 0.8H) 4.31(s, 0.8H), 4.05(s, 1.2H), 4.04(q, 1.2H), 3.55(t, 1.2H), 3.40˜3.34(m, 2.8H), 3.20(t, 0.8H), 1.73(s, 3H), 1.19(t, 1.2H), 1.14(t, 1.8H).

reactant | N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester | 5 mmol, 1.72 g | C(C)OC(CNCCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C13H17N3O4S2
reactant | (thymin-1-yl)-acetic acid | 5 mmol, 0.92 g | N1(C(=O)NC(=O)C(C)=C1)CC(=O)O | C7H8N2O4
reactant | HOBt | 6 mmol, 0.81 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 6 mmol, 1.24 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | N,N-diisopropylethylamine | 7.5 mmol, 1.31 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-[(thymin-1-yl)-acetyl]-glycine ethyl ester | 1.91 g, 75% | C(C)OC(CN(C(CN1C(=O)NC(=O)C(C)=C1)=O)CCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C20H23N5O7S2
